US04647588
Step A: N,N-Dimethyl 2-[N-(2-dimethylaminoethyl)-N-(2-(2-tetrahydro-2H-pyranyloxy)ethyl)aminosulfonyl]-6-nitrobenzamide
To a suspension of N,N-dimethyl 2-[N-(2-dimethylaminoethyl)aminosulfonyl]-6-nitrobenzamide hydrochloride (347 mg, 0.91 mmol) in DMF (5 ml) under N2 was added 50% NaH (87 mg, 1.82 mmol). After stirring at 20°-25° for 15 minutes until all of the NaH had reacted, a solution of 2-(2-bromoethoxy)tetrahydro-2H-pyran in DMF (2 ml) was added. The solution was stirred at 20°-25° under N2 for 20 hours and then concentrated under reduced pressure to remove most of the DMF. The residue was partitioned between EtOAc and a saturated aqueous solution of NaCl. After drying (Na2SO4) the EtOAc extract, filtering and concentrating, the residue was chromatographed over silica gel. Elution with 7% MeoH-93% CHCl3 gave 100 mg of product.

reactant | N,N-dimethyl 2-[N-(2-dimethylaminoethyl)aminosulfonyl]-6-nitrobenzamide hydrochloride | 0.91 mmol, 347 mg | Cl.CN(C(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NCCN(C)C)=O)C
reactant | NaH | 1.82 mmol, 87 mg | [H-].[Na+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N,N-Dimethyl 2-[N-(2-dimethylaminoethyl)-N-(2-(2-tetrahydro-2H-pyranyloxy)ethyl)aminosulfonyl]-6-nitrobenzamide | 100 mg | CN(C(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(CCOC1OCCCC1)CCN(C)C)=O)C | C20H32N4O7S
